US05763489
To a solution of 2-hydroxy-2-(N,N-diphenylcarbamoyloxymethyl)-5-ethoxycarbonylmethyloxy-1,2,3,4-tetrahydronaphthalene (100 mg) in CH2Cl2 (10 ml) was added diethylaminosulfur trifluoride (0.5 ml) at -78° C. After being stirred for 30 minutes, the mixture was washed with sat. NaHCO3 and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford 2-fluoro-2-(N,N-diphenylcarbamoyloxymethyl)-5-ethoxycarbonylmethyloxy-1,2,3,4-tetrahydronaphthalene (40 mg).

reactant | 2-hydroxy-2-(N,N-diphenylcarbamoyloxymethyl)-5-ethoxycarbonylmethyloxy-1,2,3,4-tetrahydronaphthalene | 100 mg | OC1(CC2=CC=CC(=C2CC1)OCC(=O)OCC)COC(N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H29NO6
reactant | diethylaminosulfur trifluoride | 0.5 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-fluoro-2-(N,N-diphenylcarbamoyloxymethyl)-5-ethoxycarbonylmethyloxy-1,2,3,4-tetrahydronaphthalene | 40 mg | FC1(CC2=CC=CC(=C2CC1)OCC(=O)OCC)COC(N(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H28FNO5
